US08115005B2
1-{2-[4-(5-Trifluoromethyl-pyrazol-1-yl)-phenoxy]-ethyl}-piperidine 5d:
The title compound was prepared from 4-(5-trifluoromethyl-pyrazol-1-yl)phenol (0.1 g, 0.43 mmol), 1-(2-chloroethyl)piperidine hydrochloride (0.16 g, 0.88 mmol) using the general procedure C with a yield of 48% (70 mg); 1H NMR (400 MHz, CDCl3) 7.84 (d, J=2 Hz, 1H), 7.58 (d, J=9.2 Hz, 2H), 6.98 (d, J=9.2 Hz, 2H), 6.65 (d, J=1.6 Hz, 1H), 4.14 (t, J=12, 6 Hz, 2H), 2.78 (t, J=12, 6 Hz, 2H), 2.53 (br, 4H), 1.61-1.47 (m, 6H); LC/MS (ESI): 94%.

reactant | 4-(5-trifluoromethyl-pyrazol-1-yl)phenol | 0.43 mmol, 0.1 g | FC(C1=CC=NN1C1=CC=C(C=C1)O)(F)F | C10H7F3N2O
reactant | 1-(2-chloroethyl)piperidine hydrochloride | 0.88 mmol, 0.16 g | Cl.ClCCN1CCCCC1
product | 1-{2-[4-(5-Trifluoromethyl-pyrazol-1-yl)-phenoxy]-ethyl}-piperidine | yield of 48% | FC(C1=CC=NN1C1=CC=C(OCCN2CCCCC2)C=C1)(F)F | C17H20F3N3O
